US08236319B2
4-(pyridin-2-yldisulfanyl)-2-sulfobutanoic acid
1.5 g (5.85 mmol) of 4-(Acetylthio)-1-methoxy-1-oxobutane-2-sulfonic acid was added to 100 ml of 0.5 M NaOH solution. After stirring under Ar for 3 h, the mixture was concentrated to ˜50 ml and neutralized with 1 M H2PO4 to pH 7.2 under Ar. The mixture was added dropwise to the solution of 4.0 g (18.1 mmol) of 2,2′-dithiodipyridine in 60 ml of DMA. After stirring for 4 h under Ar, the mixture was concentrated, diluted with water, filtered, evaporated and purified with C-18 4.0×20 cm column eluted with water/methanol (99:1 to 90:10) to afford 1.32 g (73% yield) of the title compound. 1H NMR (DMF-d7) 8.39 (dd, 1H, J=3.5, 4.8 Hz), 7.86 (m, 2H), 7.25 (m, 1H), 3.59 (dd, 1H, J=5.2, 9.4 Hz), 2.90 (m, 2H), 2.28 (m, 2H); 13C NMR 172.60, 159.16, 148.93, 138.09, 121.03, 119.38, 67.49, 36.39, 28.666; MS m/z−307.8 (M−H).

reactant | 4-(Acetylthio)-1-methoxy-1-oxobutane-2-sulfonic acid | 5.85 mmol, 1.5 g | C(C)(=O)SCCC(C(=O)OC)S(=O)(=O)O | C7H12O6S2
reactant | NaOH | 0.5 M, 100 ml | [OH-].[Na+]
reactant | 2,2′-dithiodipyridine | 18.1 mmol, 4.0 g | N1=C(C=CC=C1)SSC1=NC=CC=C1 | C10H8N2S2
solvent | DMA | 60 ml | CC(=O)N(C)C | C4H9NO
product | 4-(pyridin-2-yldisulfanyl)-2-sulfobutanoic acid | 1.32 g, 73% yield | N1=C(C=CC=C1)SSCCC(C(=O)O)S(=O)(=O)O | C9H11NO5S3
